US05118694
1 g of 3,4-dihydro-2,2-dimethyl-4-(2-pyridyl)-2H-1-benzopyran was dissolved in 20 ml of carbon tetrachloride at room temperature and 0.25 ml of pyridine and 10 ml of a 0.42M solution of chlorine in carbon tetrachloride were added. After 30 minutes the mixture was washed with sodium bicarbonate solution, the organic phase was separated, dried over sodium sulphate and evaporated. The residue was chromatographed on silica gel using 1% (v/v) methanol/dichloromethane and then 2% (v/v) methanol/dichloromethane for the elution. The product was recrystallized from t-butyl methyl ether to give 200 mg of 6-chloro-3,4-dihydro-2,2-dimethyl-4-(2-pyridyl)-2H-1-benzopyran of melting point 124°-125° C.

reactant | 3,4-dihydro-2,2-dimethyl-4-(2-pyridyl)-2H-1-benzopyran | 1 g | CC1(OC2=C(C(C1)C1=NC=CC=C1)C=CC=C2)C | C16H17NO
reactant | pyridine | 0.25 ml | N1=CC=CC=C1 | C5H5N
reactant | chlorine | ClCl | Cl2
solvent | carbon tetrachloride | 20 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 6-chloro-3,4-dihydro-2,2-dimethyl-4-(2-pyridyl)-2H-1-benzopyran | 200 mg | ClC=1C=CC2=C(C(CC(O2)(C)C)C2=NC=CC=C2)C1 | C16H16ClNO
